US09290472B2
Propargyl alcohol (5 mL) was added to a solution of lithium aluminium hydride (1M in THF, 43 mL) in THF (70 mL) at −78° C. The resultant mixture was warmed to room temperature and stirred for 18 hours. It was re-cooled to −78° C. and a solution of tri-n-butyl tin chloride (8.32 mL) in diethyl ether (50 mL) was added and the mixture was stirred for 3 hours whilst gradually warming to room temperature. The reaction mixture was cooled to −5° C. and quenched by addition of water and 15% aqueous sodium hydroxide solution then warmed to room temperature. Ethyl acetate was added and the mixture was stirred for 1 hour. The mixture was filtered through Celite and the filtrate was evaporated to dryness. The residue was purified by chromatography on a silica column which had been pre-washed with 20% triethylamine in acetonitrile. The column was eluted with a mixture of ethyl acetate and pentane with a gradient of 0-10% to give (Z)-3-tributylstannanyl-prop-2-en-1-ol (5.06 g) as a clear oil.

reactant | Propargyl alcohol | 5 mL | C(C#C)O | C3H4O
reactant | lithium aluminium hydride | 1M, 43 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tri-n-butyl tin chloride | 8.32 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (Z)-3-tributylstannanyl-prop-2-en-1-ol | 5.06 g | C(CCC)[Sn](\C=C/CO)(CCCC)CCCC | InChI=1S/3C4H9.C3H5O.Sn/c3*1-3-4-2;1-2-3-4;/h3*1,3-4H2,2H3;1-2,4H,3H2;
